US05389649
A stirred solution of 2-(3-pyridylmethylthio)ethanol (3.38 g, 20 mmol) in dichloromethane (50 ml) at 0° C. was treated dropwise with a solution of m-chloroperoxybenzoic acid in dichloromethane (50 ml). The mixture was stirred at 0° C. for 1 hr and at room temperature for 3 hrs. The mixture was evaporated in vacuo and purified by flash chromatography on silica eluting with 20% methanol in ethyl acetate to give 2-(3-pyridylmethylsulphinyl)ethanol (3.5 g), as colourless crystals, m.p. 84°-86° C.;

reactant | 2-(3-pyridylmethylthio)ethanol | 20 mmol, 3.38 g | N1=CC(=CC=C1)CSCCO | C8H11NOS
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3-pyridylmethylsulphinyl)ethanol | 3.5 g | N1=CC(=CC=C1)CS(=O)CCO | C8H11NO2S
